US05506708
In a typical experiment, 2 g (0.024 mole) of thiophene in 50 ml THF (dried over sodium) were treated with 2.5 eq. 1.5M n-BuLi in hexane (0.06 mole, 45 ml) at 0° C. When addition was completed, the mixture was stirred at room temperature for 5 hours. The solution was cooled at 0° C., quenched with 9.5 ml (0.06 mole) of 1-bromoheptane and then stirred at room temperature for 24 hours. The mixture was poured into ice, extracted with ether, dried (MgSO4), and the solvent evaporated. The crude product contains mono and disubstituted thiophene in the ratio 1:2 (by 1H-nmr). The crude product was then treated under the same conditions as above to yield exclusively 2,5-diheptylthiophene (5.1 g, 76%) bp 225°/0.1 mm. 1H-nmr (CDCl3) shows 86.5 (s, 2H); 2.7 (t, 4H); 0.75-2.0 (M, 26H).

reactant | thiophene | 0.024 mole, 2 g | S1C=CC=C1 | C4H4S
reactant | n-BuLi | 1.5M | [Li]CCCC
reactant | hexane | 0.06 mole, 45 ml | CCCCCC | C6H14
reactant | 1-bromoheptane | 0.06 mole, 9.5 ml | BrCCCCCCC | C7H15Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2,5-diheptylthiophene | 5.1 g, 76% | C(CCCCCC)C=1SC(=CC1)CCCCCCC | C18H32S
